US07129238B2
A stirred solution of 2,4-difluorobenzaldehyde (15.4 ml) in toluene (200 ml) was treated with ethylene glycol (23.2 ml) and p-toluene sulfonic acid (0.53 g). The reaction mixture was heated to reflux during 5 hrs (Dean-Stark trap), then it was cooled to r.t and poured onto ice. The organic layer was separated off, washed with 10% KHCO3-solution and brine, dried over MgSO4, filtered and concentrated to give 2-(2,4-difluoro-phenyl)-[1,3]dioxolane (26.8 g) as a light yellow oil. MS 186.1 ([M]+)

reactant | 2,4-difluorobenzaldehyde | 15.4 ml | FC1=C(C=O)C=CC(=C1)F | C7H4F2O
reactant | ethylene glycol | 23.2 ml | C(CO)O | C2H6O2
reactant | p-toluene sulfonic acid | 0.53 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(2,4-difluoro-phenyl)-[1,3]dioxolane | 26.8 g | FC1=C(C=CC(=C1)F)C1OCCO1 | C9H8F2O2
